US05387585
5. 15.2 g of 5-(chloromethyl)thieno[2,3-e][1,2,4]triazolo[4,3-c]pyrimidine are suspended in 650 ml of dioxan and 43 ml of dimethylformamide and cooled to 5° C. 86 ml of 1N sodium hydroxide solution are added thereto within 3 min. and the mixture is stirred at room temperature for 17 h. The reaction mixture is then partitioned between 1.5 l of saturated aqueous sodium chloride solution and 0.7 l of chloroform. The aqueous phase is then made weakly acidic (pH 6) with 12N hydrochloric acid. The mixture is extracted five times with chloroform. The organic extracts are concentrated in a vacuum. The crystalline residue is recrystallized from ethanol. There is obtained 5H-thieno[2,3-f][1,2,4]triazolo[1,5-d][1,4]diazepin-6(7H)-one of m.p. 213°-215° C.

reactant | 5-(chloromethyl)thieno[2,3-e][1,2,4]triazolo[4,3-c]pyrimidine | 15.2 g | ClCC1=NC2=C(C=3N1C=NN3)SC=C2 | C8H5ClN4S
reactant | dimethylformamide | 43 ml | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | 1N, 86 ml | [OH-].[Na+]
solvent | dioxan | 650 ml | O1CCOCC1 | C4H8O2
product | 5H-thieno[2,3-f][1,2,4]triazolo[1,5-d][1,4]diazepin-6(7H)-one | N=1C=NN2CC(NC3=C(C21)SC=C3)=O | C8H6N4OS
